* D:\GitHub\SNSPDs-Simulation\spiceModel\snspd.asc
XU1 N002 0 v_output 0 nanowireBCF Lind=100n
R2 v_output 0 50
I1 0 N002 PWL file=D:\GitHub\SNSPDs-Simulation\outputPy\snspd_data.txt
V1 N001 0 2 Rser=0
R1 v_output N001 100k
.tran 0 100n 0 1p uic
* SNSPD BCF
.lib snspd.lib
.backanno
.end
